US08293768B2
Synthesis of N-benzyl-2-(3-(4-fluorophenyl)-2,5-dioxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
To a solution of 2-[3-(4-fluorophenyl)-5-hydroxy-2-oxo-imidazolidin-1-yl]-4-methylthiazole-5-carboxylic acid benzylamide (0.07 g, 0.17 mmol) and tetrapropylammonium perruthenate (0.003 g, 0.008 mmol) in chloroform (15 mL) was added 4-methylmorpholine N-oxide (0.03 g, 0.22 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 1 hour, and filtered through a bed of celite. The filtrate was concentrated in vacuo, and the residue was purified by column chromatography to afford the title compound in 18% yield (0.14 g): mp 217-219° C.; 1H NMR (300 MHz, CDCl3) δ 7.54-7.07 (m, 9H), 6.12 (t, J=5.1 Hz, 1H), 4.55 (d, J=5.1 Hz, 2H), 4.47 (s, 2H), 2.70 (s, 3H); MS (ES+) m/z 425.3 (M+1).

reactant | 2-[3-(4-fluorophenyl)-5-hydroxy-2-oxo-imidazolidin-1-yl]-4-methylthiazole-5-carboxylic acid benzylamide | 0.17 mmol, 0.07 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1O)C1=CC=C(C=C1)F)=O)C | C21H19FN4O3S
reactant | 4-methylmorpholine N-oxide | 0.22 mmol, 0.03 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrapropylammonium perruthenate | 0.008 mmol, 0.003 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-benzyl-2-(3-(4-fluorophenyl)-2,5-dioxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 18% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1=O)C1=CC=C(C=C1)F)=O)C | C21H17FN4O3S
